US07449477B2
To {2-[7-(4-hydroxy-phenyl)-isoquinoline-5-sulfonylamino]-ethyl}-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester, (0.090 g, 0.148 mmol) in 6 ml (1:1) CH2Cl2/MeOH bubble HCl (g) for several minutes, then stir for 1 h and filter to give 0.0859 g of 7-(4-hydroxy-phenyl)-isoquinoline-5-sulfonic acid {2-[3-(4-nitro-phenyl)-propylamino]-ethyl}-amide dihydrochloric acid in 100% yield. ES Positive Ion MS [M+H]+ ion observed: m/z 507. 1H-NMR (DMSO-d6) δ9.62 (s, 1H), 8.93 (br s, 2H), 8.75 (s, 1H), 8.69-8.71 (m, 2H), 8.61 (s, 1H), 8.52 (d, J=6.2 Hz, 1H), 8.15 (d, J=8.8 Hz, 2H), 7.75 (d, J=8.8 Hz, 2H), 7.48 (d, J=8.8 Hz, 2H), 6.96 (d, J=8.4 Hz, 2H), 3.10-3.15 (br m, 2H), 2.90-3.00 (br s, 2H), 2.87 (br s, 2H), 2.75 (t, J=7.5 Hz; 2H), 1.87-1.90 (m, 2H).

reactant | {2-[7-(4-hydroxy-phenyl)-isoquinoline-5-sulfonylamino]-ethyl}-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester | 0.148 mmol, 0.090 g | C(C)(C)(C)OC(N(CCCC1=CC=C(C=C1)[N+](=O)[O-])CCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=C(C=C1)O)=O | C31H34N4O7S
reactant | HCl | Cl | ClH
solvent | CH2Cl2 MeOH | 6 ml | C(Cl)Cl.CO
product | 7-(4-hydroxy-phenyl)-isoquinoline-5-sulfonic acid {2-[3-(4-nitro-phenyl)-propylamino]-ethyl}-amide dihydrochloric acid | 0.0859 g, 100% yield | Cl.Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=C(C=C1)O | InChI=1S/C26H26N4O5S.2ClH/c31-24-9-5-20(6-10-24)21-16-22-18-28-13-11-25(22)26(17-21)36(34,35)29-15-14-27-12-1-2-19-3-7-23(8-4-19)30(32)33;;/h3-11,13,16-18,27,29,31H,1-2,12,14-15H2;2*1H
